US04749713
Treatment of 2,2-bis-(4-methoxyphenyl)-1-(1-imidazolyl)-1-(4-cyanophenyl)-ethylene with boron tribromide using procedure analogous to that described in Example 7 yields 2,2-bis-(4-hydroxyphenyl)-1-(1-imidazolyl)-1-(4-cyanophenyl)-ethylene hydrobromide, m.p. 178° dec.

reactant | 2,2-bis-(4-methoxyphenyl)-1-(1-imidazolyl)-1-(4-cyanophenyl)-ethylene | COC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)C#N)N1C=NC=C1)C1=CC=C(C=C1)OC | C26H21N3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 2,2-bis-(4-hydroxyphenyl)-1-(1-imidazolyl)-1-(4-cyanophenyl)-ethylene hydrobromide | Br.OC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)C#N)N1C=NC=C1)C1=CC=C(C=C1)O | InChI=1S/C24H17N3O2.BrH/c25-15-17-1-3-20(4-2-17)24(27-14-13-26-16-27)23(18-5-9-21(28)10-6-18)19-7-11-22(29)12-8-19;/h1-14,16,28-29H;1H
